US04806642
A mixture of 2-amino-6-chloropurine (Aldrich Chemical Co.) 11.2 g, 0.066 mol) hexamethyldisilazane (160 ml), and ammonium sulfate (1.09 g) is refluxed for 2.5 hours and then cooled, concentrated and pumped to dryness. The residue is dissolved in dry toluene (210 ml) and is treated with Hg(CN)2. The mixture is heated to 80° C. and a solution of 2-(chloromethoxy)-1-(heptyloxy-3-(phenylmethoxy)propane (prepared from 1-(heptyloxy)-3-(phenylmethoxy)-2-propanol (19 g, 0.068 mol), paraformaldehyde (4 g) and dry HCl (g) in CH2Cl2 (160 ml) as described in the first part of Example 7, in toluene (210 ml) is added to the solution and heated to 80°-85° C. for 2.5 hours. The mixture is cooled, concentrated, and diluted with CH2Cl2 (1.0 L) and is allowed to stand overnight. The CH2Cl2 solution is filtered, washed with 30% KI, 10% potassium carbonate solution and water. The organic layer is dried and concentrated. The residue is chromatographed over silica gel column using a high pressure liquid chromatographic instrument (Waters Prep 500). The column is eluted with ethyl acetate and hexane (1:1) to give the condensation product (i.e., chloropurine derivative) (6.45 g) which is hydrolysed as follows.

reactant | 2-amino-6-chloropurine | 0.066 mol, 11.2 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | hexamethyldisilazane | 160 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium sulfate | 1.09 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | heptyloxy-3-(phenylmethoxy)propane | C(CCCCCC)OCCCOCC1=CC=CC=C1 | C17H28O2
reactant | 1-(heptyloxy)-3-(phenylmethoxy)-2-propanol | 0.068 mol, 19 g | C(CCCCCC)OCC(COCC1=CC=CC=C1)O | C17H28O3
reactant | paraformaldehyde | 4 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 160 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
product | chloropurine | ClC1=NC=C2NC=NC2=N1 | C5H3ClN4
